US04492704
The 8-hydroxyquinoline is reacted with nitrous acid to form 5-nitroso-8-hydroxyquinoline. The nitrous acid is generated in situ by the action of mineral acid, such as hydrochloric, sulfuric, and the like, on sodium nitrite usually under cold temperature conditions.

reactant | 8-hydroxyquinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | nitrous acid | N(=O)O | HNO2
product | 5-nitroso-8-hydroxyquinoline | N(=O)C1=C2C=CC=NC2=C(C=C1)O | C9H6N2O2
